US08802704B2
Step 1: 3,5-difluoro-4-(hydroxymethyl)benzonitrile
A mixture of (4-bromo-2,6-difluorophenyl)methanol (1.12 g, 5.0 mmol), Pd(PPh3)4 (323 mg, 0.28 mmol) and zinc cyanide (587 mg, 5.0 mmol) was prepared in DMF (7 mL) under nitrogen atmosphere and heated at 90° C. for 18 hours. The mixture was diluted with DCM and water. The organic phase was passed through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography (silica, iso-hexane/EtOAc) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.28-7.21 (2H, m), 4.83 (2H, d, J=6.7 Hz), 1.95 (1H, t, J=6.7 Hz).

reactant | (4-bromo-2,6-difluorophenyl)methanol | 5.0 mmol, 1.12 g | BrC1=CC(=C(C(=C1)F)CO)F | C7H5BrF2O
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.28 mmol, 323 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 5.0 mmol, 587 mg | [C-]#N.[Zn+2].[C-]#N
product | 3,5-difluoro-4-(hydroxymethyl)benzonitrile | FC=1C=C(C#N)C=C(C1CO)F | C8H5F2NO
